data/oMe_Silver.jsonl
{"reaction_id": "NR-108_1-C(=O)OC_2-SC_3-c1ccc(OC)cc1","name": "Hofmann-Löffler-Freytag Reaction","level": "medium","reactants_smiles": ["ClN(c1ccc(OC)cc1)CCCC(C(=O)OC)SC"],"products_smiles": ["N(c1ccc(OC)cc1)CCCC(C(=O)OC)(SC)(Cl)"],"conditions": "Heat or hv","mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[N](c1ccc(OC)cc1)CCCC(C(=O)OC)SC","rationale": "Heat or light promotes homolytic N–Cl bond cleavage, favored by the weak bond and the stability of the nitrogen-centered radical through lone pair and adjacent substituent effects."},{"step": 2,"type": "rearrangement","subtype": "radical_rearrangement","intermediate_smiles": "N(c1ccc(OC)cc1)CCC[C](C(=O)OC)SC","rationale": "The nitrogen radical abstracts a γ-hydrogen via a 1,5-hydrogen shift, favored by a six-membered transition state and minimal steric hindrance, generating a stabilized carbon radical."},{"step": 3,"type": "radical","subtype": "radical_coupling","intermediate_smiles": "N(c1ccc(OC)cc1)CCCC(C(=O)OC)(SC)(Cl)","rationale": "The carbon radical couples with a chlorine atom due to the strong C–Cl bond formation and the high reactivity of the radical, completing the intramolecular halogenation."}],"description": "Under photochemical or thermal conditions, the Hofmann–Löffler–Freytag reaction proceeds via nitrogen-centered radical formation, intramolecular hydrogen abstraction to form a carbon radical, and radical halogenation to yield the chlorinated amine product with high regioselectivity due to favorable 1,5-hydrogen transfer."}
{"reaction_id": "NR-044_1-C_2-C=CC_3-C1CCCCC1_4-C=C_5-C(C)C_6-C(c1ccccc1)c2ccccc2","name": "Cope Elimination","level": "easy","reactants_smiles": ["[CH](C)(C=CC)C(C1CCCCC1)(C=C)[N+](C(C)C)(C(c1ccccc1)c2ccccc2)[O-]"],"products_smiles": ["C(C)(C=CC)=C(C1CCCCC1)(C=C)","O[N](C(C)C)(C(c1ccccc1)c2ccccc2)"],"conditions": "$heating$","mechnism_text_description": "The Cope elimination is a thermal intramolecular syn-stereospecific elimination of amine oxides yielding alkenes and N,N-dialkylhydroxylamines. The mechanism is concerted, involving a five-membered cyclic transition state where the oxygen of the amine oxide abstracts a $\\beta$-hydrogen. This proton abstraction, C=C double bond formation, and C-N bond cleavage (releasing N,N-dialkylhydroxylamine as the effective leaving group) occur simultaneously in a single step. While it's an elimination reaction, its concerted cyclic nature gives it pericyclic character, often compared to a [1,5]-sigmatropic hydrogen shift or an ene-like reaction.","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C=CC)=C(C1CCCCC1)(C=C).O[N](C(C)C)(C(c1ccccc1)c2ccccc2)","step_weight": 0,"rationale": "Thermal energy promotes a concerted syn-elimination where the amine oxide oxygen, being nucleophilic and well-positioned, abstracts the β-hydrogen. Simultaneous C–N bond cleavage is favored by the stability of the N,N-dialkylhydroxylamine leaving group and the relief of steric strain."}],"description": "Upon heating, the amine oxide undergoes a concerted syn-elimination via a five-membered cyclic transition state. The oxygen abstracts a β-hydrogen while the C–N bond breaks and a C=C double bond forms, yielding the alkene and N,N-dialkylhydroxylamine."}
